US06489344B1
(2-{6-[(2-{[4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]amino}ethyl)amino]-3-nitro(2-pyridyloxy)}ethyl)dimethylamine was prepared from [4-(2,4-dichloro-phenyl)-5-imidazol-2-ylpyrimidin-2-ylethylamine and [2-(6-chloro-3-nitro(2-pyridyloxy))-ethyl]dimethylamine in accordance with the procedure described above for the preparation of [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 4-(2,4-dichloro-phenyl)-5-imidazol-2-ylpyrimidin-2-ylethylamine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)CCN | C15H13Cl2N5
reactant | [2-(6-chloro-3-nitro(2-pyridyloxy))-ethyl]dimethylamine | ClC1=CC=C(C(=N1)OCCN(C)C)[N+](=O)[O-] | C9H12ClN3O3
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])OC | C21H18Cl2N8O3
product | (2-{6-[(2-{[4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]amino}ethyl)amino]-3-nitro(2-pyridyloxy)}ethyl)dimethylamine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=CC=C(C(=N1)OCCN(C)C)[N+](=O)[O-] | C24H25Cl2N9O3
